### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Function): ae convergence implies convergence in distribution

### PR DESCRIPTION
**Pull request by jvanwinden**
This PR introduces a theorem which concludes convergence in distribution from almost everywhere convergence. 

Previously, this could be done by chaining [`tendstoInMeasure_of_tendsto_ae`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInMeasure.html#MeasureTheory.tendstoInMeasure_of_tendsto_ae) and [`TendstoInMeasure.tendstoInDistribution`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInDistribution.html#MeasureTheory.TendstoInMeasure.tendstoInDistribution).
However, this is not a good way to to it since the second lemma requires a `SeminormedAddCommGroup E` instance (which is not needed for the statement to hold). Thus, we instead give a direct short proof which relies on dominated convergence.

As a consequence, we also obtain a new proof of `TendstoInMeasure.tendstoInDistribution` which does not pass through `tendstoInDistribution_of_tendstoInMeasure_sub` and therefore does not require `SeminormedAddCommGroup` and `SecondCountableTopology` anymore. I expect this will enable significant golfing (or maybe even removal) of `tendstoInDistribution_of_tendstoInMeasure_sub` in the future.

In order to allow for ae measurability as an assumption, it was necessary to add `tendsto_lintegral_filter_of_dominated_convergence'`, which gives dominated convergence along a countable filter for `AEMeasurable` functions.

Sidenote: I believe [`TendstoInMeasure.tendstoInDistribution`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInDistribution.html#MeasureTheory.TendstoInMeasure.tendstoInDistribution) should be rewritten at some point to require only a metric space (or maybe only uniform space) structure. However, even if this was done, the theorem of this PR provides the value of relying only on `TopologicalSpace E`.

---

- [ ] depends on: #39768

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by CoolRmal** [comment]
You need a notion of distance for [TendstoInMeasure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInDistribution.html#MeasureTheory.TendstoInMeasure.tendstoInDistribution), so what you said about uniform space is not correct.

**Comment by CoolRmal** [comment]
And actually I think the proof of [TendstoInMeasure.tendstoInDistribution](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInDistribution.html#MeasureTheory.TendstoInMeasure.tendstoInDistribution) for a (pseudo)(e)metric space (not sure whether you can do it for pseudo/extended metric) follows from the lemma you proved in this PR by using [MeasureTheory.TendstoInMeasure.exists_seq_tendsto_ae'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInMeasure.html#MeasureTheory.TendstoInMeasure.exists_seq_tendsto_ae') and [Filter.tendsto_iff_seq_tendsto](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/AtTopBot/CountablyGenerated.html#Filter.tendsto_iff_seq_tendsto). Do you want to formalize this? If so, I think you can create a new PR dependent on this one.

**Comment by jvanwinden** [comment]
> You need a notion of distance for [TendstoInMeasure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInDistribution.html#MeasureTheory.TendstoInMeasure.tendstoInDistribution), so what you said about uniform space is not correct.

I am aware of this, but what I meant here was that the definition of `TendstoInMeasure` itself could perhaps be generalized to uniform spaces. Although I am not familiar enough with uniform spaces to way whether the proofs would carry over.

**Comment by jvanwinden** [comment]
> And actually I think the proof of [TendstoInMeasure.tendstoInDistribution](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInDistribution.html#MeasureTheory.TendstoInMeasure.tendstoInDistribution) for a (pseudo)(e)metric space (not sure whether you can do it for pseudo/extended metric) follows from the lemma you proved in this PR by using [MeasureTheory.TendstoInMeasure.exists_seq_tendsto_ae'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInMeasure.html#MeasureTheory.TendstoInMeasure.exists_seq_tendsto_ae') and [Filter.tendsto_iff_seq_tendsto](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/AtTopBot/CountablyGenerated.html#Filter.tendsto_iff_seq_tendsto). Do you want to formalize this? If so, I think you can create a new PR dependent on this one.

I had also been thinking about this route, and I think it would be a good idea. In the coming week I can check if a nice proof indeed falls out.

**Comment by CoolRmal** [comment]
> > You need a notion of distance for [TendstoInMeasure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInDistribution.html#MeasureTheory.TendstoInMeasure.tendstoInDistribution), so what you said about uniform space is not correct.
> 
> I am aware of this, but what I meant here was that the definition of `TendstoInMeasure` itself could perhaps be generalized to uniform spaces. Although I am not familiar enough with uniform spaces to way whether the proofs would carry over.

Oh I think I see what you mean. This is interesting! Maybe I'll do an experiment with the definition of `TendstoInMeasure` recently.

**Comment by jvanwinden** [comment]
> > And actually I think the proof of [TendstoInMeasure.tendstoInDistribution](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInDistribution.html#MeasureTheory.TendstoInMeasure.tendstoInDistribution) for a (pseudo)(e)metric space (not sure whether you can do it for pseudo/extended metric) follows from the lemma you proved in this PR by using [MeasureTheory.TendstoInMeasure.exists_seq_tendsto_ae'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInMeasure.html#MeasureTheory.TendstoInMeasure.exists_seq_tendsto_ae') and [Filter.tendsto_iff_seq_tendsto](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/AtTopBot/CountablyGenerated.html#Filter.tendsto_iff_seq_tendsto). Do you want to formalize this? If so, I think you can create a new PR dependent on this one.
> 
> I had also been thinking about this route, and I think it would be a good idea. In the coming week I can check if a nice proof indeed falls out.

A nice proof did indeed fall out (currently 6 lines, plus it generalizes `SeminormedAddCommGroup` to `PseudoEMetricSpace` and removes `SecondCountableTopology`. I will clean it up and add it to this PR.

**Comment by jvanwinden** [comment]
awaiting-author

**Comment by jvanwinden** [comment]
> > > You need a notion of distance for [TendstoInMeasure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInDistribution.html#MeasureTheory.TendstoInMeasure.tendstoInDistribution), so what you said about uniform space is not correct.
> > 
> > 
> > I am aware of this, but what I meant here was that the definition of `TendstoInMeasure` itself could perhaps be generalized to uniform spaces. Although I am not familiar enough with uniform spaces to way whether the proofs would carry over.
> 
> Oh I think I see what you mean. This is interesting! Maybe I'll do an experiment with the definition of `TendstoInMeasure` recently.

Funnily enough, the characterization of convergence in measure in terms of a.e. convergent subsequences does not even require a uniformity! Thus it would even be possible to write a definition of `TendstoInMeasure` which only requires a topology. 

I am not sure if I would advocate for this, since it is not the standard definition and the equivalence only holds for countably generated filters, but I do think this is something worth thinking about.

**Comment by CoolRmal** [comment]
May you be more specific about how you would like to define `TendstoInMeasure` by using only topology? Here's  a list of definitions that I am thinking about.

```
import Mathlib.MeasureTheory.Measure.MeasureSpaceDef

open scoped Topology

open Filter

def MeasureTheory.TendstoInMeasure {ι α E : Type*} [EDist E] {m : MeasurableSpace α} 
    (μ : Measure α) (f : ι → α → E) (l : Filter ι) (g : α → E) : Prop := 
  ∀ ε, 0 < ε → Tendsto (fun i => μ { x | ε ≤ edist (f i x) (g x) }) l (𝓝 0)

def MeasureTheory.TendstoInMeasure' {ι α E : Type*} [UniformSpace E] {m : MeasurableSpace α} 
    (μ : Measure α) (f : ι → α → E) (l : Filter ι) (g : α → E) : Prop := 
  ∀ s ∈ uniformity E, Tendsto (fun i => μ { x | ⟨f i x, g x⟩ ∉ s }) l (𝓝 0)

def MeasureTheory.TendstoInMeasure'' {ι α E : Type*} [TopologicalSpace E] {m : MeasurableSpace α} 
    (μ : Measure α) (f : ι → α → E) (l : Filter ι) (g : α → E) : Prop := 
  ∀ s : α → Set E, (∀ x, s x ∈ 𝓝 (g x)) → Tendsto (fun i => μ { x | f i x ∉ s x }) l (𝓝 0)

def MeasureTheory.TendstoInMeasure''' {ι α E : Type*} [TopologicalSpace E] {m : MeasurableSpace α} 
    (μ : Measure α) (f : ι → α → E) (l : Filter ι) (g : α → E) : Prop := 
  ∀ s ∈ 𝓝 g, Tendsto (fun i => μ { x | f i x ∉ (Function.eval x '' s) }) l (𝓝 0)
```
The first one is just the classical definition used in Mathlib right now. It naturally leads to the second definition (as a uniform space structure can be constructed from a pseudoEMetricSpace by [uniformSpaceOfEDist](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/EMetricSpace/Defs.html#uniformSpaceOfEDist)). The second definition is not really more general than the first one, as an EDist does not always induces a uniform strucutre, but I believe both definitions are equivalent with [MeasureTheory.tendstoInMeasure_iff_dist](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInMeasure.html#MeasureTheory.tendstoInMeasure_iff_dist) in the case that E is a pseudometric space.

The third and the fourth definitions are my guesses of how we should define it in a general topological space, but I don't think they give an equivalent definition with the classical one when E is a pseduometric space.

Maybe we should create a Zulip thread for this.

**Comment by jvanwinden** [comment]
I have added the new proof of `TendstoInMeasure.tendstoInDistribution`. I expect that this will enable us to significantly golf (or perhaps even remove?) `tendstoInDistribution_of_tendstoInMeasure_sub`. But this PR is already experiencing some scope creep.

**Comment by jvanwinden** [comment]
-awaiting-author

**Comment by jvanwinden** [comment]
> May you be more specific about how you would like to define `TendstoInMeasure` by using only topology? Here's a list of definitions that I am thinking about.
> 
> ```
> import Mathlib.MeasureTheory.Measure.MeasureSpaceDef
> 
> open scoped Topology
> 
> open Filter
> 
> def MeasureTheory.TendstoInMeasure {ι α E : Type*} [EDist E] {m : MeasurableSpace α} 
>     (μ : Measure α) (f : ι → α → E) (l : Filter ι) (g : α → E) : Prop := 
>   ∀ ε, 0 < ε → Tendsto (fun i => μ { x | ε ≤ edist (f i x) (g x) }) l (𝓝 0)
> 
> def MeasureTheory.TendstoInMeasure' {ι α E : Type*} [UniformSpace E] {m : MeasurableSpace α} 
>     (μ : Measure α) (f : ι → α → E) (l : Filter ι) (g : α → E) : Prop := 
>   ∀ s ∈ uniformity E, Tendsto (fun i => μ { x | ⟨f i x, g x⟩ ∉ s }) l (𝓝 0)
> 
> def MeasureTheory.TendstoInMeasure'' {ι α E : Type*} [TopologicalSpace E] {m : MeasurableSpace α} 
>     (μ : Measure α) (f : ι → α → E) (l : Filter ι) (g : α → E) : Prop := 
>   ∀ s : α → Set E, (∀ x, s x ∈ 𝓝 (g x)) → Tendsto (fun i => μ { x | f i x ∉ s x }) l (𝓝 0)
> 
> def MeasureTheory.TendstoInMeasure''' {ι α E : Type*} [TopologicalSpace E] {m : MeasurableSpace α} 
>     (μ : Measure α) (f : ι → α → E) (l : Filter ι) (g : α → E) : Prop := 
>   ∀ s ∈ 𝓝 g, Tendsto (fun i => μ { x | f i x ∉ (Function.eval x '' s) }) l (𝓝 0)
> ```
> 
> The first one is just the classical definition used in Mathlib right now. It naturally leads to the second definition (as a uniform space structure can be constructed from a pseudoEMetricSpace by [uniformSpaceOfEDist](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/EMetricSpace/Defs.html#uniformSpaceOfEDist)). The second definition is not really more general than the first one, as an EDist does not always induces a uniform strucutre, but I believe both definitions are equivalent with [MeasureTheory.tendstoInMeasure_iff_dist](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/ConvergenceInMeasure.html#MeasureTheory.tendstoInMeasure_iff_dist) in the case that E is a pseudometric space.
> 
> The third and the fourth definitions are my guesses of how we should define it in a general topological space, but I don't think they give an equivalent definition with the classical one when E is a pseduometric space.
> 
> Maybe we should create a Zulip thread for this.

What I meant with `TopologicalSpace` was the following: for sequences of (finite) measures, convergence in probability is equivalent to the statement that every subsequence has a further subsequence which converges almost surely. But this subsequence property only requires a `TopologicalSpace` instance. Thus we could use this as a definition instead.

However, there is the issue that this characterization only holds true for finite measures and countably generated filters. And I would expect that these drawbacks weigh more heavily than the benefit of generalizing from `UniformSpace` to `TopologicalSpace`.

File: Mathlib/MeasureTheory/Integral/Lebesgue/DominatedConvergence.lean [hunk 1]
```diff
@@ -76,10 +76,11 @@ theorem tendsto_lintegral_of_dominated_convergence' {F : ℕ → α → ℝ≥0
     filter_upwards [h_bound n, (hF_meas n).ae_eq_mk] with a H H'
     rwa [H'] at H
 
-/-- **Dominated convergence theorem** for filters with a countable basis. -/
-theorem tendsto_lintegral_filter_of_dominated_convergence {ι} {l : Filter ι}
+/-- **Dominated convergence theorem** for filters with a countable basis and
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/Lebesgue/DominatedConvergence.lean:79]: splice-bot

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 2]
```diff
@@ -129,8 +129,41 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
       congr
       rw [AEMeasurable.map_map_of_aemeasurable hg.aemeasurable h.aemeasurable_limit]
 
+/-- Almost sure convergence implies convergence in distribution. -/
+theorem tendstoInDistribution_of_ae_tendsto [NeBot l] [l.IsCountablyGenerated]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: No need for `NeBot`:
```suggestion
theorem tendstoInDistribution_of_ae_tendsto [l.IsCountablyGenerated]
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 3]
```diff
@@ -129,8 +129,41 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+    [OpensMeasurableSpace E] {X : ι → Ω' → E}
+    (hX₁ : ∀ i, AEMeasurable (X i) μ') (hZ : AEMeasurable Z μ')
+    (hX₂ : ∀ᵐ ω ∂μ', Tendsto (fun i ↦ X i ω) l (nhds (Z ω))) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
    (hX₂ : ∀ᵐ ω ∂μ', Tendsto (fun i ↦ X i ω) l (𝓝 (Z ω))) :
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 4]
```diff
@@ -129,8 +129,41 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+    TendstoInDistribution X l Z (fun _ ↦ μ') μ' := by
+  refine .mk (by measurability) hZ ?_
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: Please use the `where` syntax and `fun_prop` instead of `measurability`.

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 5]
```diff
@@ -129,8 +129,41 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+  simp_rw [ProbabilityMeasure.tendsto_iff_forall_lintegral_tendsto, ProbabilityMeasure.coe_mk]
+  intro f
+  rw [lintegral_map' (by measurability) hZ]
+  conv in ∫⁻ _, _ ∂_ => rw [lintegral_map' (by measurability) (by measurability)]
+  apply tendsto_lintegral_filter_of_dominated_convergence' (bound := fun _ ↦ edist 0 f)
+  · exact .of_forall (fun _ ↦ by measurability)
+  · refine .of_forall <| fun n ↦ .of_forall <| fun ω ↦ ?_
+    simpa [← ENNReal.coe_le_coe] using f.apply_le_nndist_zero (X n ω)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: Can you add a version of `apply_le_nndist_zero` for `edist`? To simplify this part.

Comment (jvanwinden) [reply Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: I added the lemma. I also shifted the `variable` in the other file to above the two `apply_le_dist` lemmas. This had the side effect of changing the order of `[TopologicalSpace]` and `[MeasurableSpace]`. Is this okay or should the order stay the same? If so I can revert it.

**Comment by jvanwinden** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean (hunk 5 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: The order of non-explicit parameters is not important.

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 6]
```diff
@@ -129,8 +129,42 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
       congr
       rw [AEMeasurable.map_map_of_aemeasurable hg.aemeasurable h.aemeasurable_limit]
 
+/-- Almost sure convergence implies convergence in distribution. -/
+theorem tendstoInDistribution_of_ae_tendsto [l.IsCountablyGenerated]
+    [OpensMeasurableSpace E] {X : ι → Ω' → E}
+    (hX₁ : ∀ i, AEMeasurable (X i) μ') (hZ : AEMeasurable Z μ')
+    (hX₂ : ∀ᵐ ω ∂μ', Tendsto (fun i ↦ X i ω) l (𝓝 (Z ω))) :
+    TendstoInDistribution X l Z (fun _ ↦ μ') μ' where
+  forall_aemeasurable i := by fun_prop
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: seems more natural
```suggestion
  forall_aemeasurable := hX₁
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 7]
```diff
@@ -129,8 +129,42 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+  aemeasurable_limit := hZ
+  tendsto := by
+    simp_rw [ProbabilityMeasure.tendsto_iff_forall_lintegral_tendsto, ProbabilityMeasure.coe_mk]
+    intro f
+    rw [lintegral_map' (by fun_prop) hZ]
+    conv in ∫⁻ _, _ ∂_ => rw [lintegral_map' (by fun_prop) (by fun_prop)]
+    apply tendsto_lintegral_filter_of_dominated_convergence' (bound := fun _ ↦ edist 0 f)
+    · exact .of_forall (fun _ ↦ by fun_prop)
+    · simp [f.apply_le_edist_zero]
+    · simpa [lintegral_eq_const] using ENNReal.coe_ne_top (r := nndist 0 f)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: This should just be `simp`. Can you tag [edist_ne_top](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Pseudo/Defs.html#edist_ne_top) with `simp` to do so please?

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 8]
```diff
@@ -129,8 +129,42 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
 end TendstoInDistribution
 
+/-- Convergence in probability (`TendstoInMeasure`) implies convergence in distribution
+(`TendstoInDistribution`). -/
+theorem TendstoInMeasure.tendstoInDistribution [PseudoEMetricSpace E] [BorelSpace E]
+    [l.IsCountablyGenerated] [l.NeBot] {X : ι → Ω' → E}
+    (h : TendstoInMeasure μ' X l Z) (hX : ∀ i, AEMeasurable (X i) μ') :
+    TendstoInDistribution X l Z (fun _ ↦ μ') μ' := by
+  have hZ := h.aemeasurable (by fun_prop)
+  refine ⟨by fun_prop, hZ, ?_⟩
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
  have hZ := h.aemeasurable hX
  refine ⟨hX, hZ, ?_⟩
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 9]
```diff
@@ -129,8 +129,42 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+  refine Filter.tendsto_of_subseq_tendsto (fun ns hns ↦ ?_)
+  obtain ⟨ms, hms1, hms2⟩ := h.comp hns |>.exists_seq_tendsto_ae'
+  refine ⟨ms, TendstoInDistribution.tendsto ?_⟩
+  apply tendstoInDistribution_of_ae_tendsto (by fun_prop) hZ
+  simpa using hms2
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
  exact tendstoInDistribution_of_ae_tendsto (by fun_prop) hZ hms2
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean (hunk 7 above)
Comment (jvanwinden) [reply Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: To clarify, do you mean that all side conditions here can be solved by `simp`?

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: No sorry I just meant the `simpa` line, it is a combination of `lintegral_const` that is already `simp` and `edist_ne_top`.

Comment (jvanwinden) [reply Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: The simplification `simpa using by finiteness` already works here. Should I still add the `simp` tag to `edist_ne_top`? It is already tagged with `@[aesop (rule_sets := [finiteness]) safe apply]`

**Comment by jvanwinden** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean (hunk 7 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: Yes please, see [enorm_lt_top](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/Defs.html#enorm_lt_top)

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 10]
```diff
@@ -129,8 +129,41 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+    TendstoInDistribution X l Z (fun _ ↦ μ') μ' where
+  forall_aemeasurable := hX₁
+  aemeasurable_limit := hZ
+  tendsto := by
+    simp_rw [ProbabilityMeasure.tendsto_iff_forall_lintegral_tendsto, ProbabilityMeasure.coe_mk]
+    intro f
+    rw [lintegral_map' (by fun_prop) hZ]
+    conv in ∫⁻ _, _ ∂_ => rw [lintegral_map' (by fun_prop) (hX₁ i)]
+    apply tendsto_lintegral_filter_of_dominated_convergence' (bound := fun _ ↦ edist 0 f)
+    · exact .of_forall (fun _ ↦ by fun_prop)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: Thanks!
```suggestion
    · exact .of_forall (by fun_prop)
```
maintainer delegate

**Comment by RemyDegenne** [comment]
Thanks!
bors r+

**Comment by jvanwinden** [comment]
Thanks for the thorough reviews! I learned some new tricks.
